US05866684
56 mg (0.049 mmol) of N1-[2-(benzylthio)-1(R)-(dimethoxymethyl)ethyl]-N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucinamide were dissolved in 10 ml of trifluoroacetic acid/dichloromethane (1:1) containing 3 drops of water and the solution was stirred for 90 minutes. The solution was evaporated to dryness under a vacuum and the residue was re-evaporated twice with toluene. The solid was triturated with 10 ml of diethyl ether to give 40 mg of 3-(benzylthio)-2(R)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]propionaldehyde as a white solid. MS: m/e 927.6 (M+H]+.

reactant | N1-[2-(benzylthio)-1(R)-(dimethoxymethyl)ethyl]-N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucinamide | 0.049 mmol, 56 mg | C(C1=CC=CC=C1)SC[C@@H](C(OC)OC)NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)CCC(OC(C)(C)C)=O)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C59H92N6O14S
solvent | trifluoroacetic acid dichloromethane | 10 ml | FC(C(=O)O)(F)F.ClCCl
catalyst | water | 3 drops | O | H2O
product | 3-(benzylthio)-2(R)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]propionaldehyde | 40 mg | C(C1=CC=CC=C1)SC[C@@H](C=O)NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CCC(=O)O)=O)CC(O)=O)=O)CCC(O)=O)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C45H62N6O13S
